US05919779
A mixture of 3-bromo-2-(2-fluoropyridin-3-yl)thiophene (0.47 g) and ethylamine (0.4 g) in dioxane (2 mL) in a sealed tube was heated at 100° C. for 2 days. The mixture was diluted with ethyl acetate, washed with water, dried, filtered and evaporated to give 3-bromo-2-(2-ethylaminopyridin-3-yl)thiophene (0.45 g).

reactant | 3-bromo-2-(2-fluoropyridin-3-yl)thiophene | 0.47 g | BrC1=C(SC=C1)C=1C(=NC=CC1)F | C9H5BrFNS
reactant | ethylamine | 0.4 g | C(C)N | C2H7N
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-bromo-2-(2-ethylaminopyridin-3-yl)thiophene | 0.45 g | BrC1=C(SC=C1)C=1C(=NC=CC1)NCC | C11H11BrN2S
